Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
oxycodone
 
Attending: ___
 
Chief Complaint:
PRIMARY ONCOLOGIST: ___
PRIMARY DIAGNOSIS:  Bladder cancer (high grade, stage II)  

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a pleasant ___ w/ COPD on 2.5LPM, lupus, and 
bladder
cancer, diagnosed ___, now on Gemcitabine/Cisplatin C1D1
___, who p/w weakness thought to be from UTI and new
thrombocytopenia.

Patient has 3 days of weakness. She called her oncologist and
described diaphoresis and malaise. She was referred to OSH ED. 

She went to ___ where she complained of body aches
and chills, but increased SOB and confusion. She was reported to
have UTI and she received 1 gram CTX. Her platelets were 43k and
she was then transferred to ___ ED. 

In the ED, initial VS were pain 0, T 98.6, HR 80, BP 136/75, RR
16, O2 98%RA. Labs notable for WBC 16.7 (81%N), HCT 33.9, PLT 
38,
Na 138, K 4.1, HCO3 23, Cr 0.6, ALT 19, AST 25, ALP 102, LDH 41,
TBili 0.2, Alb 3.6, lactate 1.7, INR 1.0, fibrinogen 344, FDP
___. UA 18 WBC and few bacteria. CXR revealed no acute 
process.
Patient was given 1L NS. VS prior to transfer were T 97.9, HR 
70,
BP 111/63, RR 16.

On arrival, pt's family noted that before the initiation of
chemo, she has been having memory issues, and she recognizes 
this
as a problem for her as well. However since her neulasta shot,
she developed body aches the next day, and family noted her to 
be
very "loopy," and since then, she has "improved." 

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
- ___: hematuria and LLQ pain, underwent cystoscopy and found
to have bladder wall mass
- ___: TURBT with path showing invasive high grade
urothelial carcinoma with prominent squamous and glandular
differentiation, with focal invasive micropapillary features,
highly suspicious for muscularis propria invasion
- ___: Transurethral resection of medium-sized bladder tumor 

- ___ C1D1 Gemcitabin/Cisplatin 

PAST MEDICAL HISTORY (per OMR):
- bladder cancer as above
- COPD/emphysema on home 2L NC with exertion and sleep
- Lupus, well controlled
- neuropathy 
 
Social History:
___
Family History:
Her mother had cervical cancer. Father had throat cancer. A
maternal aunt had breast cancer. 
 
Physical Exam:
VITAL SIGNS: 97.9 136/65 68 
General:  NAD, Resting in bed comfortably
HEENT:  MMM, no OP lesions, no cervical/supraclavicular
adenopathy
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no palpable masses or HSM
LIMBS: WWP, no ___, no tremors
SKIN:  No rashes on the extremities
NEURO:  AOX3, excellent insight and thought process logical, 
linear, future oriented,. CN III - XII intact, strength ___ 
upper and lower ext, speech is clear and fluent, thought process 
logical linear future
 
Pertinent Results:
___ 07:05PM   GLUCOSE-120* UREA N-7 CREAT-0.6 SODIUM-139 
POTASSIUM-3.5 CHLORIDE-103 TOTAL CO2-25 ANION GAP-15
___ 07:05PM   LD(LDH)-351* TOT BILI-0.2
___ 07:05PM   CALCIUM-8.5 PHOSPHATE-2.2* MAGNESIUM-1.9
___ 07:05PM   WBC-21.5* RBC-3.46* HGB-11.3 HCT-34.2 MCV-99* 
MCH-32.7* MCHC-33.0 RDW-11.9 RDWSD-43.0
___ 07:05PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 07:05PM   PLT COUNT-50*
___ 07:05PM   ___ PTT-27.1 ___
___ 07:05PM   ___

Blood Cultures from ___
1 Staph Coag Neg

Urine Cultures from ___
Ecoli
Klebsiella
 
Brief Hospital Course:
___ w/ COPD on 2.5LPM, lupus, and bladder cancer, diagnosed 
___, now on Gemcitabine/Cisplatin C1D1 ___, who p/w 
weakness thought to be from UTI and new thrombocytopenia.

# Malaise
# Diaphoresis
# Bacteremia 
# Leukocytosis
# Toxic-metabolic encephalopathy
Symptoms are most likely due to sepsis from urinary tract 
infection, possibly pyelonephritis. She improved quickly with 
CTX. Urine cx grew ecoli and klebsiella. She will continue a 14 
day course of abx, lat dose of cipro on ___. Her MS improved 
gradually but dramatically and was back to her normal mental 
status per her family and patient. Of note, she had 1 blood 
culture positive for staph coag neg, which ID was consulted for 
and noted this is most likely a contaminate. NCHCT was neg for 
acute events.

# Thrombocytopenia
Etiology most likely chemotherapy and infection. No evidence 
thus far of MAHA on smear on admission. Hematology consulted and 
did not feel this was consistent with TTP/HUS. Her TCP improved 
to 117K on discharge. 

# Bladder cancer: Stage II given invasion into the lamina 
propria, now s/p repeat Transurethral resection of medium-sized 
bladder tumor on ___. She was not felt to be a surgical 
candidate given her pulmonary disease. Plan for 2 cycles 
gemcitabine/cisplatin, with re-imaging and either radiation or 
additional chemo. 

# COPD/emphysema: On home 2.5L NC but recently upped at 3L

# Lupus, well controlled, cont plaquenil 
# Neuropathy: cont gabapentin

FEN: Regular diet
DVT PROPHYLAXIS: c/i due to TCP
ACCESS: PIV 
CODE STATUS: Full code, presumed
HCP: Health Care Proxy: ___
PCP: ___, MD
DISPO: Home w/ ___
BILLING: >30 min spent coordinating care for discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob, wheezing 
2. Alendronate Sodium 70 mg PO QSUN 
3. Baclofen 20 mg PO TID:PRN Pain - Moderate 
4. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
5. Gabapentin 1500 mg PO DAILY 
6. Hydroxychloroquine Sulfate 200 mg PO DAILY 
7. Lisinopril 2.5 mg PO EVERY OTHER DAY 
8. Omeprazole 20 mg PO DAILY 
9. Phenazopyridine 100 mg PO TID:PRN bladder discomfort 
10. PredniSONE 5 mg PO EVERY OTHER DAY 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. Venlafaxine XR 75 mg PO DAILY 
13. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*20 Tablet Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob, wheezing  
3.  Alendronate Sodium 70 mg PO QSUN  
4.  Baclofen 20 mg PO TID:PRN Pain - Moderate  
5.  Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY  
6.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
7.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
8.  Gabapentin 1500 mg PO DAILY  
9.  Hydroxychloroquine Sulfate 200 mg PO DAILY  
10.  Lisinopril 2.5 mg PO EVERY OTHER DAY  
11.  Omeprazole 20 mg PO DAILY  
12.  Phenazopyridine 100 mg PO TID:PRN bladder discomfort  
13.  PredniSONE 5 mg PO EVERY OTHER DAY  
14.  Tiotropium Bromide 1 CAP IH DAILY  
15.  Venlafaxine XR 75 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
E.Coli and Klebsiella Urinary Tract Infection, Complicated 
COPD on 2.5LPM
Lupus
Bladder cancer
Thrombocytopenia, Resolving
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you. You were admitted to the 
hospital for confusion and you were found to have a urinary 
tract infection. You were discharged home to complete a 2 week 
course of antibiotics. 

Your ___ Team
 
Followup Instructions:
___